US04921852
To a solution of (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.0 g) in a mixture of N,N-dimethylacetamide (10 ml) and dichloromethane (5 ml) was added 2,2-dimethoxythioacetamide (1.28 g) at room temperature. After stirring at room temperature for 12 hours, the mixture was poured into ethyl acetate. The organic layer was washed with water, saturated sodium bicarbonate and brine successively, dried over magnesium sulfate, and evaporated. The obtained oil was subjected to a column chromatography on silica gel and eluted with a mixture of dichloromethane and acetone (20:1, V/V) to give (2S,4R)-2-[2-(dimethoxymethyl)thiazol-4-yl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.6 g).

reactant | (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.0 g | BrCC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H17BrN2O8S
reactant | 2,2-dimethoxythioacetamide | 1.28 g | COC(C(=S)N)OC | C4H9NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S,4R)-2-[2-(dimethoxymethyl)thiazol-4-yl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.6 g | COC(C=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])OC | C19H23N3O9S2
